US08809525B2
5-Phenyl-6-(piperidin-1-yl)-1,2,4-triazin-3-amine (18 mg, 18%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and piperidine (0.14 g, 1.60 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | piperidine | 1.60 mmol, 0.14 g | N1CCCCC1 | C5H11N
product | 5-Phenyl-6-(piperidin-1-yl)-1,2,4-triazin-3-amine | 18 mg, 18% | C1(=CC=CC=C1)C=1N=C(N=NC1N1CCCCC1)N | C14H17N5
